US09290472B2
Methyl (3-fluorophenyl)acetate (1.51 g) was added dropwise to chlorosulphonic acid (7 mL) with stirring and ice cooling. The cooling bath was removed and the mixture was allowed to stand at room temperature for 16 hours before being carefully added to a mixture of ice and ethyl acetate. The organic layer was separated, washed with water, dried (MgSO4) and filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 0-20% to give methyl (2-chlorosulfonyl-5-fluorophenyl)acetate (1.42 g) as a white solid.

reactant | Methyl (3-fluorophenyl)acetate | 1.51 g | FC=1C=C(C=CC1)CC(=O)OC | C9H9FO2
reactant | chlorosulphonic acid | 7 mL | ClS(=O)(=O)O | ClHO3S
product | methyl (2-chlorosulfonyl-5-fluorophenyl)acetate | 1.42 g | ClS(=O)(=O)C1=C(C=C(C=C1)F)CC(=O)OC | C9H8ClFO4S
